US05202319
N-Methyl-N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepin-3-yl]carbamic acid ethyl ester
Potassium-t-butoxide (3 g) was added as a powder to an ice-cooled solution of N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)3-benzazepin-3-yl]carbamic acid ethyl ester (8 g) in 100 ml tetrahydrofuran. After thirty minutes, a solution of dimethyl sulfate (3.1 g) in 25 ml tetrahydrofuran was slowly added. After one hour, the reaction mixture was stirred with water and extracted with ethyl acetate. The dried (anhydrous magnesium sulfate) organic layer was filtered and concentrated. The residue was triturated with ether to yield 6 g solid, mp 204°-205°. A 2 gram sample was recrystallized from acetonitrile to yield 1.6 g white crystals, mp 218°-219°.

reactant | Potassium-t-butoxide | 3 g | CC(C)([O-])C.[K+]
reactant | N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)3-benzazepin-3-yl]carbamic acid ethyl ester | 8 g | C(C)OC(NN1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2)=O | C20H21F3N2O3
reactant | dimethyl sulfate | 3.1 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-3-benzazepin-3-yl]carbamic acid ethyl ester | 6 g | C(C)OC(N(N1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2)C)=O | C21H23F3N2O3
